US07518002B2
Synthesis of 4′,5′-dimethylfluorescein
A mixture comprising 62 g of 2-methylresorcinol, 30 g of phthalic anhydride, 2 g of potassium hydrogen sulfate and 500 ml of ethyl laurate is brought to 200° C. for 3 hours. After cooling, the crude product is filtered and washed with acetone and then dried. The product obtained is a dark orange powder.

reactant | 2-methylresorcinol | 62 g | CC1=C(O)C=CC=C1O | C7H8O2
reactant | phthalic anhydride | 30 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | potassium hydrogen sulfate | 2 g | S(=O)(=O)(O)[O-].[K+]
solvent | ethyl laurate | 500 ml | C(CCCCCCCCCCC)(=O)OCC | C14H28O2
product | 4′,5′-dimethylfluorescein | CC1=C(C=CC2=C1OC3=C(C24C5=CC=CC=C5C(=O)O4)C=CC(=C3C)O)O | C22H16O5
